US05223498
A mixture of 2-methyl-1-(5-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide (6 g) and 33% methylamine in absolute ethanol solution (250 ml) was kept at room temperature for 21 days to yield 1,3-dimethyl-2-(5-methyl-2-morpholinophenyl)guanidine as an oil which was dissolved in methanol (60 ml) and treated with fumaric acid (1.7 g) to give 1,3-dimethyl-2-(5-methyl-2-morpholinophenyl)guanidine fumarate (1.2 g) as a colourless solid which was recrystallised form a 1:1 mixture of methanol and ether (m.p. 201°-202° C.).

reactant | 2-methyl-1-(5-methyl-2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | 6 g | I.CSC(NC1=C(C=CC(=C1)C)N1CCOCC1)=NC
reactant | methylamine | CN | CH5N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1,3-dimethyl-2-(5-methyl-2-morpholinophenyl)guanidine | CNC(=NC1=C(C=CC(=C1)C)N1CCOCC1)NC | C14H22N4O
